* source DRAFT_PROIECT_PAUL
.EXTERNAL OUTPUT out
V_V1         VCC 0 15V
R_R8         N300141 N29998 R_R8 18k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         VCC N30028 R_R5 10k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
X_P1         N300601 N30002 N30028 POT PARAMS: SET={cursor1} VALUE=2.5k
X_P2         N29998 N29892 N29892 POT PARAMS: SET={cursor2} VALUE=51k
R_R2         N29758 N29340 R_R2 20k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
V_V2         -VCC 0 -15V
R_R1         N29518 N29340 R_R1 10k TC=0,0 
.model        R_R1 RES R=1 DEV=1% TC1=0 TC2=0
R_R3         VPRAG N29440 R_R3 2k TC=0,0 
.model        R_R3 RES R=1 DEV=1% TC1=0 TC2=0
X_U3A         N29440 0 VCC -VCC N29296 TL082
C_C1         N29340 VPRAG C_C1 2.7n  TC=0,0 
.model        C_C1 CAP C=1 DEV=1% TC1=0 TC2=0 VC1=0 VC2=0
X_U3B         N30002 VPRAG VCC -VCC N37316 TL082
X_U2B         0 N29340 VCC -VCC VPRAG TL082
D_D2         N29518 N29296 D1N4148 
R_R4         N29440 N29296 R_R4 8.2k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
D_D1         N29296 N29758 D1N4148 
R_R6         N300601 -VCC R_R6 13k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
R_R7         N29892 N37316 R_R7 3.9k TC=0,0 
.model        R_R7 RES R=1 DEV=1% TC1=0 TC2=0
D_D3         N37464 N37483 DIODALED 1
X_U4A         N29998 OUT VCC -VCC OUT TL082
R_R10         N37464 OUT R_R10 560 TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         0 N300141 R_R9 1k TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
D_D4         N37483 0 Dbreak 
D_D5         N42447 0 DIODALED 1
V_V3         N42455 0 3
R_R11         N42455 N42447  1k TC=0,0 
.IC         V(N29340 )=0
.PARAM  cursor1=1 cursor2=1
